US07026352B1
(8E,12E,14E)-7-Acetoxy-21-ethoxyacetoxy-3,6-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (Compound B25)
Pyridinium p-toluenesulfonate (29 mg, 0.12 mmol) was added to a solution of (8E,12E,14E)-7-acetoxy-21-ethoxyacetoxy-6-(1-ethoxyethoxy)-3-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (8.0 mg, 0.012 mmol) in methanol (1.0 mL) at room temperature, followed by stirring at the same temperature for one hour. After the reaction mixture was diluted with ethyl acetate, it was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crude product was purified by thin layer chromatography (MERCK Silicagel 60 F254, 0.25 mm, developing solution; hexane:ethyl acetate=1:2) to obtain the title compound (4.0 mg, 56%) as a colorless oil.

reactant | Pyridinium p-toluenesulfonate | 0.12 mmol, 29 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | (8E,12E,14E)-7-acetoxy-21-ethoxyacetoxy-6-(1-ethoxyethoxy)-3-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.012 mmol, 8.0 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(COCC)=O)C)O1)C)\C)O)(C)OC(C)OCC | C38H62O11
solvent | methanol | 1.0 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-7-Acetoxy-21-ethoxyacetoxy-3,6-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 4.0 mg, 56% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(COCC)=O)C)O1)C)\C)O)(C)O | C34H54O10
